US04260611
3-Chloro-4-dimethylaminomethyl-1-phenyl-isoquinoline
8.2 g 3-Chloro-4-hydroxymethyl-1-phenyl-isoquinoline are suspended in 300 ml toluene and 16.2 g phosphorus tribromide are added thereto while cooling with ice. After a 10 hours' stirring at room temperature dimethylamine is introduced until an alcaline reaction occurs. The reaction mixture is concentrated and water is added to the residue. Extraction with acetic acid ester gives a yellow oil, that crystallizes slowly. Melting point 75° to 77° C. Hydrochloride: 244° to 246° C.

reactant | 3-Chloro-4-hydroxymethyl-1-phenyl-isoquinoline | 8.2 g | ClC=1N=C(C2=CC=CC=C2C1CO)C1=CC=CC=C1 | C16H12ClNO
reactant | phosphorus tribromide | 16.2 g | P(Br)(Br)Br | Br3P
reactant | dimethylamine | CNC | C2H7N
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Chloro-4-dimethylaminomethyl-1-phenyl-isoquinoline | ClC=1N=C(C2=CC=CC=C2C1CN(C)C)C1=CC=CC=C1 | C18H17ClN2
